US08383642B2
3-(2-Fluoro-4-hydroxy-phenyl)hex-4-ynoic acid
3-(2-Fluoro-4-methoxy-phenyl)hex-4-ynoic acid (0.250 g, 1.12 mmol) is dissolved in DCM (5 mL) and boron tribromide (0.5 mL, 3.7 mmol) is added at −10° C. The mixture is stirred at ambient temperature for 1 hour. The solution is concentrated under reduced pressure, diluted with water, and extracted with EtOAc, dried with a drying agent, and concentrated under reduced pressure to give the title compound as a pale brown liquid (0.180 g, 76%). ESI/MS m/z 212 (M−H)−.

reactant | 3-(2-Fluoro-4-methoxy-phenyl)hex-4-ynoic acid | 1.12 mmol, 0.250 g | FC1=C(C=CC(=C1)OC)C(CC(=O)O)C#CC | C13H13FO3
reactant | boron tribromide | 3.7 mmol, 0.5 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Fluoro-4-hydroxy-phenyl)hex-4-ynoic acid | 0.180 g, 76% | FC1=C(C=CC(=C1)O)C(CC(=O)O)C#CC | C12H11FO3
